US05328920
4-Chloro-3-[(3-{6-fluoro-3-benzisoxazolyl}propyl)(4-pyridinyl)amino]benzo[b]thiophene
A solution of 4-chloro-3-[(4-pyridinyl)amino]benzo[b]thiophene (2.26 g, 8.67 mmole) in 25 mL DMF was added to a suspension of NaH (0.416 g of 60% in oil, 10.4 mmole, washed with heptane). To this mixture was added 3-(3-chloropropyl)-6-fluorobenzisoxazole (2.04 g, 9.53 mmole) and the reaction mixture was heated at 70° C. for 3 hours. The reaction mixture was quenched into water and extracted with ethyl acetate (3×). The organics were washed with water and dried (MgSO4). The compound was purified via flash chromatography (EtOAc) to give 2.8 g of a partially solidified oil. This was recrystallized from methanol/water to give 1.38 g of a white powder, mp: 135°-136° C.

reactant | 4-chloro-3-[(4-pyridinyl)amino]benzo[b]thiophene | 8.67 mmole, 2.26 g | ClC1=CC=CC=2SC=C(C21)NC2=CC=NC=C2 | C13H9ClN2S
reactant | NaH | 10.4 mmole, 0.416 g | [H-].[Na+]
reactant | 3-(3-chloropropyl)-6-fluorobenzisoxazole | 9.53 mmole, 2.04 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-3-[(3-{6-fluoro-3-benzisoxazolyl}propyl)(4-pyridinyl)amino]benzo[b]thiophene | 1.38 g | ClC1=CC=CC=2SC=C(C21)N(C2=CC=NC=C2)CCCC2=NOC1=C2C=CC(=C1)F | C23H17ClFN3OS
